US09422232B2
To a solution of methyl 4-[(1-azido-4-trifluoroacetamidobutoxy)methyl]benzoate (0.4 g; 1.1 mmol) in MeOH (4.6 mL) was added a solution of potassium carbonate (0.4 g; 2.9 mmol) in water (2.4 mL) and stirred at room temperature for 4 h. The mixture was diluted with water and extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtrated and evaporated. The residue was purified by column chromatography (MeCN+5% MeOH) to provide methyl 4-[(4-amino-1-azidobutoxy)methyl]benzoate in 0.19 g yield (65%).

reactant | methyl 4-[(1-azido-4-trifluoroacetamidobutoxy)methyl]benzoate | 1.1 mmol, 0.4 g | N(=[N+]=[N-])C(CCCNC(C(F)(F)F)=O)OCC1=CC=C(C(=O)OC)C=C1 | C15H17F3N4O4
reactant | potassium carbonate | 2.9 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 4.6 mL | CO | CH4O
solvent | water | 2.4 mL | O | H2O
product | methyl 4-[(4-amino-1-azidobutoxy)methyl]benzoate | NCCCC(OCC1=CC=C(C(=O)OC)C=C1)N=[N+]=[N-] | C13H18N4O3
